US07863315B2
Preparation of 6-(5-(((5-fluoro-2-oxoindolin-3-ylidene)hydrazono)methyl)-2,4-dimethyl-1H-pyrrole-3-carboxamido)-N-(2-aminophenyl)hexanamide
6-(5-(((5-fluoro-2-oxoindolin-3-ylidene)hydrazono)methyl)-2,4-dimethyl-1H-pyrrole-3-carboxamido)-hexanoic acid (441 mg, 1 mmol), and 8 ml of DMF were stirred at room temperature while 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (394 mg, 2 mmol), hydroxy-benzotriazole (162 mg, 1.2 mmol), triethylamine (404 mg, 4 mmol) and o-phenylenediamine (432 mg, 4 mmol) were added. The mixture was stirred for 24 hours at room temperature. The mixture was diluted with 400 mL of brine. The solids were collected by vacuum filtration, washed with water and dried under vacuum to give the title compound (430 mg, 81% yield) as a red solid. 1H NMR (DMSO-d6)δ1.38 (m, 2H, CH2), 1.54 (m, 2H, CH2), 1.62 (m, 2H, CH2), 2.30 (s, 3H, pyrrole-CH3), 2.32 (t, J=8.0 Hz, 2H, CH2CO), 2.41 (s, 3H, pyrrole-CH3), 3.22 (m, 2H, NCH2), 4.82 (s, 2H, benzene-NH2), 6.51 (t, J=8.0 Hz, 1H, Ar—H), 6.69 (d, J=8.0 Hz, 1H, Ar—H), 6.87 (m, 2H, Ar—H), 7.14 (d, J=8.0 Hz, 1H, Ar—H), 7.20 (m, 1H, Ar—H), 7.65 (t, J=4.0 Hz, 1H, CONH), 8.33 (dd, J=4.0 and 8.0 Hz, 1H, Ar—H), 8.63 (s, 1H, vinyl-H), 9.11 (s, 1H, benzene-NH), 10.73 (s, 1H, indolinone-NH), 11.82 (s, 1H, pyrrole-NH). LC-MS (m/z) 532 (M+1).

reactant | 6-(5-(((5-fluoro-2-oxoindolin-3-ylidene)hydrazono)methyl)-2,4-dimethyl-1H-pyrrole-3-carboxamido)-hexanoic acid | 1 mmol, 441 mg | FC=1C=C2C(C(NC2=CC1)=O)=NN=CC1=C(C(=C(N1)C)C(=O)NCCCCCC(=O)O)C | C22H24FN5O4
reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2 mmol, 394 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxy-benzotriazole | 1.2 mmol, 162 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | triethylamine | 4 mmol, 404 mg | C(C)N(CC)CC | C6H15N
reactant | o-phenylenediamine | 4 mmol, 432 mg | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | brine | 400 mL | [Cl-].[Na+].O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 6-(5-(((5-fluoro-2-oxoindolin-3-ylidene)hydrazono)methyl)-2,4-dimethyl-1H-pyrrole-3-carboxamido)-N-(2-aminophenyl)hexanamide | 430 mg, 81% yield | FC=1C=C2C(C(NC2=CC1)=O)=NN=CC1=C(C(=C(N1)C)C(=O)NCCCCCC(=O)NC1=C(C=CC=C1)N)C | C28H30FN7O3
